US06455507B1
2-Bromo-5-chloro-(2,3,4-tri-O-acetyl-beta-D-ribopyranosyl)-1H-benzimidazole
The title compound was prepared according to General Procedure IV using 5-chloro-(2,3,4-tri-O-acetyl-beta-D-ribopyranosyl)-1H-benzimidazole (0.17 g, 0.41 mmol), 30 ml tetrahydrofuran (Aldrich Sure Seal, Milwaukee), and a total of 2.6 g (7.0 mmol) of N-bromosuccinimide that was added over 2 h. The product from work-up by General Procedure IV was purified on a silica gel column (2.5×20 cm, 230-400 mesh) with dichloromethane containing 1.0% methanol to give 2-Bromo-5-chloro-(2,3,4-tri-O-acetyl-beta-D-ribopyranosyl)-1H-benzimidazole (0.15 g, 0.31 mmol, 76%); MS (ES+): m/z (rel. intensity) 511 (0.25, M+23 (Na)) 1H NMR (DMSO-d6) δ8.02-8.00 (d,1H, J=8.7), 7.68 (d, 1H, J=2.1 Hz), 7.30-7.27 (dd, 1H, J=1.9 Hz, J=8.9 Hz), 5.96-5.93 (d, 1H, J=8.9 Hz), 5.67-5.62 (m, 2H), 5.55-5.45 (m,1H), 4.20-3.90 (m, 2H), 2.20 (s, 3H), 1.99 (s, 3H), 1.73 (s, 3H).

reactant | 5-chloro-(2,3,4-tri-O-acetyl-beta-D-ribopyranosyl)-1H-benzimidazole | 0.41 mmol, 0.17 g | ClC1=CC2=C(N(C=N2)[C@H]2[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](OC(C)=O)CO2)C=C1 | C18H19ClN2O7
reactant | N-bromosuccinimide | 7.0 mmol, 2.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-Bromo-5-chloro-(2,3,4-tri-O-acetyl-beta-D-ribopyranosyl)-1H-benzimidazole | 0.31 mmol, 0.15 g, 76% | BrC1=NC2=C(N1[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](OC(C)=O)CO1)C=CC(=C2)Cl | C18H18BrClN2O7
